US06939871B2
To a stirred solution of N-pivaloyl-3-methoxyaniline (4.14 g, 20 mmol) in dry tetrahydrofuran (80 mL) at 0° C. under argon was added a solution of sec-butyllithium in cyclohexane (1.4 M, 35.7 mL, 50 mmol), dropwise over 0.2 h (T≦0° C.) and the resulting mixture was stirred at 0-5° C. for 2 h. The mixture was cooled to −5° C. then dry N,N-dimethylformamide (2.3 mL, 30 mmol) was added dropwise, and the resulting solution stirred at 0° C. for 1 h then at 20° C. for 20 h. The mixture was cooled to 0° C. and propionaldehyde (1.17 g, 20.2 mmol) was added dropwise followed by a solution of potassium hexamethyldisilazide in toluene (0.5 M, 80 mL, 40 mmol) dropwise over 0.2 h. The mixture was stirred at 0° C. for 0.25 h, then at 20° C. for 2 h and at 30° C. for 1 h. The resulting mixture was partitioned between saturated aqueous NH4Cl (200 mL) and ether (3×50 mL), and the combined organic extracts dried (Na2SO4) and evaporated in vacuo. Chromatography of the residue on silica with 20-100% ether in hexane gradient elution gave 5-methoxy-3-methylquinoline (0.16 g, 5%) as an oil. A mixture of 5-methoxy-3-methylquinoline (0.16 g, 0.92 mmol) and pyridine hydrochloride (0.064 g, 5.5 mmol) was heated under argon at 200° C. with stirring for 2.5 h, then cooled and partitioned between saturated aqueous NaHCO3 (30 mL) and dichloromethane (5×30 mL). Combined organic extracts were dried (Na2SO4) and evaporated in vacuo to give a solid which was purified by chromatography on silica eluting with ethyl acetate to give the title compound (0.089 g, 60%) as a solid.

reactant | N-pivaloyl-3-methoxyaniline | 20 mmol, 4.14 g | C(C(C)(C)C)(=O)NC1=CC(=CC=C1)OC | C12H17NO2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 50 mmol, 1.4 M, 35.7 mL | C1CCCCC1 | C6H12
reactant | N,N-dimethylformamide | 30 mmol, 2.3 mL | CN(C=O)C | C3H7NO
reactant | propionaldehyde | 20.2 mmol, 1.17 g | C(CC)=O | C3H6O
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | toluene | 40 mmol, 0.5 M, 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 5-methoxy-3-methylquinoline | 0.16 g, 5% | COC1=C2C=C(C=NC2=CC=C1)C | C11H11NO
